US06472372B1
3-Fluoro-4-(1H-1,2,4-triazol-1-yl)benzaldehyde
The title compound was prepared by a procedure analogous to Reference Example 5 by substituting 3,4-difluorobenzaldehyde and 1,2,4-triazole, respectively, for the 4-fluoro-3-methoxybenzaldehyde and pyrazole of Reference Example 5. MS 192 (M+H)+.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 4-fluoro-3-methoxybenzaldehyde | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 3-Fluoro-4-(1H-1,2,4-triazol-1-yl)benzaldehyde | FC=1C=C(C=O)C=CC1N1N=CN=C1 | C9H6FN3O
